US07759518B2
Step C: 6,7-Difluoro-1-(4-fluoro-2-iodophenyl)-4-methoxy-1H-benzo[d]imidazol-2(3H)-one
To the stirred solution of 5,6-difluoro-N1-(4-fluoro-2-iodophenyl)-3-methoxybenzene-1,2-diamine (0.17 gm, 0.43 mmol) in CH2Cl2 (2 ml), 1,1′-Carbonyldiimidazole (0.085 gm, 0.53 mmol) was added. This reaction mixture was kept stirring at room temperature for 16 hours when product precipitated out. The white solid was filtered and used further without any purification. (0.089 gm); m/z=419 [M−1]−.

reactant | 5,6-difluoro-N1-(4-fluoro-2-iodophenyl)-3-methoxybenzene-1,2-diamine | 0.43 mmol, 0.17 gm | FC1=CC(=C(C(=C1F)NC1=C(C=C(C=C1)F)I)N)OC | C13H10F3IN2O
reactant | 1,1′-Carbonyldiimidazole | 0.53 mmol, 0.085 gm | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 6,7-Difluoro-1-(4-fluoro-2-iodophenyl)-4-methoxy-1H-benzo[d]imidazol-2(3H)-one | FC=1C=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)F)I)C1F)OC | C14H8F3IN2O2
